US07919519B2
5-(Pyridin-2-ylmethyl)benzofuran-2-ylboronic acid
A solution of 2-(benzofuran-5-ylmethyl)pyridine (66 mg, 315 mmol) in THF (2 mL) was cooled to −78° C. (under argon), treated with 2.5 M n-BuLi (in hexanes, 2.5 equiv, 0.315 mL) and stirred for 2 min, warmed to 0° C. for 30 min, cooled to −78° C., and treated with triisopropyl borate (178 μL, 946 μmol). After 5 min, cooling was removed, the mixture slowly warmed to room temperature and stirred for 2 h. The mixture was diluted with EtOAc, washed with 1× with brine, dried over MgSO4 and evaporated yielding yellow solids used without further purification. MS (ESI) m/z: Calculated: 253.1; Observed: 254.1 (M++1).

reactant | 2-(benzofuran-5-ylmethyl)pyridine | 315 mmol, 66 mg | O1C=CC2=C1C=CC(=C2)CC2=NC=CC=C2 | C14H11NO
reactant | n-BuLi | 2.5 M, 0.315 mL, 2.5 equiv | [Li]CCCC
reactant | triisopropyl borate | 946 μmol, 178 μL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-(Pyridin-2-ylmethyl)benzofuran-2-ylboronic acid | N1=C(C=CC=C1)CC=1C=CC2=C(C=C(O2)B(O)O)C1 | C14H12BNO3
